US05808095
5-Chloro-α-fluoro-2-methoxy-α-[2-nitro-4-(trifluoromethyl)-phenyl]benzeneacetic acid
In a 3-necked 5-L round-bottomed flask, equipped with a mechanical stirrer and thermocouple, was suspended 5-chloro-α-fluoro-2-methoxy-α-[2-nitro-4-(trifluoromethyl)phenyl]benzeneacetic acid, methyl ester (450 g, 1.067 mol) in methanol (2.0 L) and 1.0 N aqueous sodium hydroxide (1.10 L, 1.10 mol). The reaction mixture was stirred for 4.5 hours at about 50° C. to complete the hydrolysis (determined by HPLC analysis). The reaction mixture was cooled to room temperature and concentrated on a rotary evaporator to remove most of the methanol. The residue was partitioned between tert-butylmethylether/hexane (1.2 L/0.5L) and water (1.4 L) and extracted. The organic layer was back-extracted with water (500 mL). The combined aqueous layers were cooled in an ice bath and while stirring vigorously, acidified with concentrated hydrochloric acid to about pH 1 (about 110 mL). Preferably, seed crystals of the title compound were added resulting in crystallization/precipitation of the product. The material was filtered after stirring for 3 hours at 0° C., air and vacuum dried overnight to afford 418.1 g of the title compound (96% yield when corrected for solvent, 99.6% by HPLC). A sample was recrystallized from toluene/hexane (1:1.25 at about 5 mL/g) to afford pure title compound.

reactant | 5-chloro-α-fluoro-2-methoxy-α-[2-nitro-4-(trifluoromethyl)phenyl]benzeneacetic acid, methyl ester | 1.067 mol, 450 g | ClC=1C=CC(=C(C1)C(C(=O)OC)(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])F)OC | C17H12ClF4NO5
reactant | sodium hydroxide | 1.10 mol, 1.0 N, 1.10 L | [OH-].[Na+]
solvent | methanol | 2.0 L | CO | CH4O
product | 5-Chloro-α-fluoro-2-methoxy-α-[2-nitro-4-(trifluoromethyl)-phenyl]benzeneacetic acid | 418.1 g, 96% yield | ClC=1C=CC(=C(C1)C(C(=O)O)(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])F)OC | C16H10ClF4NO5
